Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]1/[C:3](=[N:4]\[H:11])[C@@:5]1([O:6][H:10])[H:12])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],15.072259629763401
[C:1]([C:2](=[O:3])[H:12])([H:8])([H:9])[H:10].[C:4](=[N:5]\[H:13])(\[C:6]#[N:7])[H:11]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],66.4468056481991
[C:1](=[C:2]([C-:3]=[C:4]=[C+:5][H:9])[H:8])([H:6])[H:7]>>[C:1]([C:2]#[C:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8],21.6441737697346
[C:1]([C:2]([N:3]([C@@:4]1([O:5][H:16])[O:6][C:7]1([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],31.611344433474706
[C:1]([O:2][C:3](=[O:4])[O:7][C:6](=[C:5]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],53.57246389932577
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:6]=[N:7][C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10],99.61931636362421
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])([H:12])[H:13])([C:6](=[O:7])[H:17])[H:11])([H:8])([H:9])[H:10],58.6051087571002
[N:1]1([H:8])[C:2]([C:6](=[O:5])[H:9])=[C:7]1[H:10].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],24.2675213497807
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:5](#[N:6])[H:9].[N:3](=[C:4]([H:13])[H:14])[H:12],67.2712325203702
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([H:14])[C:5]([H:15])([H:16])[C@@:6]12[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],26.445777312329895
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C-:5]#[O+:6].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],63.153458794126216
[O:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2]([H:8])[H:9].[O:1]([C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])[H:7],101.621275755595
[C:1]([C@@:2]1([C:6]#[C:7][H:15])[C:3]([H:11])([H:13])[C@:4]1([C:5][H:14])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],31.020429999418397
[C-:1]([C:2]([C+:3]([C:4]([H:12])([H:13])[H:14])[O:6][H:18])([H:10])[H:11])([H:7])[H:8].[C:5]([H:9])([H:15])([H:16])[H:17]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],8.164017105084895
[C:1]([C:2]([O:3][H:12])([C:4]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[C:5](=[C:6]=[O:7])([H:16])[H:17]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],64.28941532056228
[C-:2]#[O+:3].[C:4](=[O:5])([H:10])[H:11].[N:1]([C:6](=[O:7])[H:12])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],30.6061665866329
[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:15])([H:16])[C:5]1=[C:6]=[C:7]([H:18])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:17],83.2959447870529
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[C:6](=[O:7])([H:11])[H:13].[O:1](/[C:2](=[C:3](\[C:4](=[O:5])[H:12])[H:10])[H:9])[H:8],59.4810828374346
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]([O:4][H:14])([H:12])[H:13])[N:5]([C+:6]([O-:7])[H:16])[H:15])([H:8])[H:9].[H:10][H:11],106.149188188213
[C:1]([C:2](=[C:3]=[C:4]=[C:5]([H:12])[H:13])[H:9])([H:6])([H:7])[H:8].[H:10][H:11]>>[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],40.25618121759379
[C:2]1(=[O:3])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C@@:6]1([O:7][H:16])[H:14].[N:1]([H:8])([H:9])[H:15]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],53.24404285106121
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[C+:3][H:10])([O-:4])[C:5](=[O:6])[H:12]>>[C:1]([C@@:2]1([C:5](=[O:6])[H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],49.24448601716138
[C:1]([C@:7]1([H:17])[C@:4]2([H:13])[C:3]([H:11])([H:12])[C:2]([H:10])=[C:6]1[C:5]2([H:14])[H:15])([H:8])([H:9])[H:16]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],63.152213351076
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7]>>[O:1]=[C:2]([N:6]=[C:5]=[C:3]=[O:4])[H:7],52.4617185656872
